US07786104B2
15.1 5-Fluoro-1-[(pyridin-4-yl)methyl]-1H-indole-2-carboxylic Acid
A solution of 2.1 g (7.04 mmol) of ethyl 5-fluoro-1-[(pyridin-4-yl)methyl]-1H-indole-2-carboxylate (WO 2007/010144) and of 1.18 g (21.12 mmol) of potassium hydroxide in 80 ml of ethanol and 2 ml of water is refluxed for 2 hours. The reaction mixture is subsequently concentrated under reduced pressure. 100 ml of water are added and the pH of the solution is brought to pH 8 by the addition of a concentrated hydrochloric acid solution. A precipitate is recovered by filtration and is washed with water and then dried under reduced pressure. 1.5 g of the expected product are thus obtained.

reactant | ethyl 5-fluoro-1-[(pyridin-4-yl)methyl]-1H-indole-2-carboxylate | 7.04 mmol, 2.1 g | FC=1C=C2C=C(N(C2=CC1)CC1=CC=NC=C1)C(=O)OCC | C17H15FN2O2
reactant | potassium hydroxide | 21.12 mmol, 1.18 g | [OH-].[K+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 5-Fluoro-1-[(pyridin-4-yl)methyl]-1H-indole-2-carboxylic Acid | 1.5 g | FC=1C=C2C=C(N(C2=CC1)CC1=CC=NC=C1)C(=O)O | C15H11FN2O2
